US04477454
In a manner similar to that of Example 12, conversion of 2-(4-mercapto-2-methoxyphenyl)-1,3,5,6-tetraazaindene into the Na salt and subsequent reaction with ethyl iodide gives 2-(2-methoxy-4-ethylthiophenyl)-1,3,5,6-tetraazaindene, m.p. 248°.

reactant | 2-(4-mercapto-2-methoxyphenyl)-1,3,5,6-tetraazaindene | SC1=CC(=C(C=C1)C=1NC2=CN=NC=C2N1)OC | C12H10N4OS
reactant | ethyl iodide | C(C)I | C2H5I
product | 2-(2-methoxy-4-ethylthiophenyl)-1,3,5,6-tetraazaindene | COC1=C(C=CC(=C1)SCC)C=1NC2=CN=NC=C2N1 | C14H14N4OS
